US08044041B2
A mixture 6-bromo-4-chloro-2H-phthalazin-1-one (95 mg, 0.366 mmol), 3-phenylbenzylamine (95 mg, 0.518 mmol), Pd2(dba)3 (40 mg, 0.044 mmol), rac-BINAP (76 mg, 0.122 mmol) and NaOtBu (101 mg, 1.05 mmol) in DMA (5 mL) was heated at 80° C. for 1.5 h. The mixture was allowed to cool, diluted with EtOAc and washed with water. The organic layer was washed with sat.aq. NaHCO3, brine and dried (Na2SO4). Chromatography on silica (EtOAc/hexanes) afforded 6-[(biphenyl-3-ylmethyl)-amino]-4-chloro-2H-phthalazin-1-one (3 mg) as an off white solid, 1H (400 MHz, CDCl3) δ: 4.49 (s, 2H), 7.00 (m, 2H), 7.50 (m, 9H), 8.05 (d, 1H), 10.87 (s, 1H) ppm; m/z (M+1) 361.95.

reactant | 6-bromo-4-chloro-2H-phthalazin-1-one | 0.366 mmol, 95 mg | BrC=1C=C2C(=NNC(C2=CC1)=O)Cl | C8H4BrClN2O
reactant | 3-phenylbenzylamine | 0.518 mmol, 95 mg | C1(=CC=CC=C1)C=1C=C(CN)C=CC1 | C13H13N
reactant | rac-BINAP | 0.122 mmol, 76 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | NaOtBu | 1.05 mmol, 101 mg | CC(C)(C)[O-].[Na+]
solvent | DMA | 5 mL | CC(=O)N(C)C | C4H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd2(dba)3 | 0.044 mmol, 40 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 6-[(biphenyl-3-ylmethyl)-amino]-4-chloro-2H-phthalazin-1-one | 3 mg | C1(=CC(=CC=C1)CNC=1C=C2C(=NNC(C2=CC1)=O)Cl)C1=CC=CC=C1 | C21H16ClN3O
